US07501414B2
N-(2,6-Diethyl-4-morpholin-4-yl-phenyl)-4-methyl-benzenesulfonamide
A mixture of N-(4-amino-2,6-diethyl-phenyl)-4-methyl-benzenesulfonamide (70 mg), bis-(2-bromoethyl)ether (33 μL), N,N-diisopropyl-ethylamine (115 μL) and N-methylpyrrolidine (0.3 mL) was heated to 180° C. for 20 minutes in a sealed microwave process vial. The mixture was diluted with ethyl acetate (20 mL), washed with brine (30 mL) and saturated aqueous potassium carbonate (30 mL), and dried over sodium sulfate. The organic phase was concentrated in vacuo to furnish 78 mg (91%) of the title compound. LC-MS (m/z) 389 (MH+); tR=2.77, (UV, ELSD) 57%, 98%. The crude product was used without further purification.

reactant | N-(4-amino-2,6-diethyl-phenyl)-4-methyl-benzenesulfonamide | 70 mg | NC1=CC(=C(C(=C1)CC)NS(=O)(=O)C1=CC=C(C=C1)C)CC | C17H22N2O2S
reactant | bis-(2-bromoethyl)ether | 33 μL | BrCCOCCBr | C4H8Br2O
reactant | N,N-diisopropyl-ethylamine | 115 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-methylpyrrolidine | 0.3 mL | CN1CCCC1 | C5H11N
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-(2,6-Diethyl-4-morpholin-4-yl-phenyl)-4-methyl-benzenesulfonamide | 78 mg, 91% | C(C)C1=C(C(=CC(=C1)N1CCOCC1)CC)NS(=O)(=O)C1=CC=C(C=C1)C | C21H28N2O3S
